US06020345
Stage 3: 5-methyl-6-methylaminopyridine-2-carbaldehyde
A suspension of 0.33 g of (5-methyl-6-methylaminopyridin-2-yl)methanol (2.17 mmol) and 1.6 g of manganese dioxide (18.4 mmol) in 12 ml of chloroform is heated under reflux for 1 hour. The insoluble matter is removed by filtration on celite and then the solvent evaporated under vacuum. The title product is purified by chromatography on a silica column (eluent: chloroform). 0.25 g of a yellow solid is recovered.

reactant | (5-methyl-6-methylaminopyridin-2-yl)methanol | 2.17 mmol, 0.33 g | CC=1C=CC(=NC1NC)CO | C8H12N2O
solvent | chloroform | 12 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | manganese dioxide | 18.4 mmol, 1.6 g | [O-2].[O-2].[Mn+4]
product | 5-methyl-6-methylaminopyridine-2-carbaldehyde | CC=1C=CC(=NC1NC)C=O | C8H10N2O
